US07947693B2
(2R)-2-({2-Amino-5-[(1-phenylpropyl)thio][1,3]thiazolo[4,5-d]pyrimidin-7-yl}amino)-4-methylpentan-1-ol
The title compound was synthesized as a mixture of two diastereomers by general method A from the reaction of (2R)-2-[(2-amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol (30 mg, 100 μmol) with (1-chloropropyl)benzene (15.5 μL, 100 μmol) to give 13 mg (31% yield) as an oil.

reactant | (2R)-2-[(2-amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol | 100 μmol, 30 mg | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)S)N1 | C11H17N5OS2
reactant | (1-chloropropyl)benzene | 100 μmol, 15.5 μL | ClC(CC)C1=CC=CC=C1 | C9H11Cl
product | (2R)-2-({2-Amino-5-[(1-phenylpropyl)thio][1,3]thiazolo[4,5-d]pyrimidin-7-yl}amino)-4-methylpentan-1-ol | 31% yield | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)SC(CC)C2=CC=CC=C2)N1 | C20H27N5OS2
